US09290465B2
To a solution of 5-bromomethyl-2,3-dihydro-benzo[b]thiophene 1,1-dioxide (55 mg, 0.21 mmol), 4-(4-amino-isoxazol-3-yl)-phenol (37 mg, 0.21 mmol) in DMF (2 mL) was added tetrabutylammonium iodide (8 mg, 0.021 mmol) and K2CO3 (58 mg, 0.42 mmol). After stirring for 4 h at rt, the reaction mixture was poured into water and extracted three times with ethyl acetate. The combined organic layers were washed three times with water, once with brine and dried over Na2SO4. Filtration followed by removal of volatiles under reduced pressure gave crude product from which 3-[4-(1,1-dioxo-2,3-dihydro-1H-1lambda*6*-benzo[b]thiophen-5-ylmethoxy)-phenyl]-isoxazol-4-ylamine (42 mg, 56%) was isolated by chromatography (66-80% ethyl acetate in hexane. M+1=356.9

reactant | 5-bromomethyl-2,3-dihydro-benzo[b]thiophene 1,1-dioxide | 0.21 mmol, 55 mg | BrCC1=CC2=C(S(CC2)(=O)=O)C=C1 | C9H9BrO2S
reactant | 4-(4-amino-isoxazol-3-yl)-phenol | 0.21 mmol, 37 mg | NC=1C(=NOC1)C1=CC=C(C=C1)O | C9H8N2O2
reactant | K2CO3 | 0.42 mmol, 58 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | tetrabutylammonium iodide | 0.021 mmol, 8 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-[4-(1,1-dioxo-2,3-dihydro-1H-1lambda*6*-benzo[b]thiophen-5-ylmethoxy)-phenyl]-isoxazol-4-ylamine | 42 mg, 56% | O=S1(C2=C(CC1)C=C(C=C2)COC2=CC=C(C=C2)C2=NOC=C2N)=O | C18H16N2O4S
